US06656937B2
3-bromopiperidine-2,6-dione
4.5 ml bromine were added to 10.2 g glutarimide suspended in 20 ml chloroform and the mixture was stirred in a closed vessel for 90 minutes at a bath temperature of 110° C. After cooling, the vessel was opened and stirring was continued until no more hydrogen bromide escaped. The reaction mixture was evaporated in vacuo, the residue dissolved in ethanol and evaporated again. 17.1 g (99% of theoretical) of the title compound remained in the form of practically white crystals, which melted at 76 to 83° C.

reactant | bromine | 4.5 ml | BrBr | Br2
reactant | glutarimide | 10.2 g | C1(CCCC(N1)=O)=O | C5H7NO2
reactant | hydrogen bromide | Br | BrH
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-bromopiperidine-2,6-dione | BrC1C(NC(CC1)=O)=O | C5H6BrNO2
